US07538102B2
To a cold (0° C.) solution of chlorosulfonyl isocyanate (0.437 mL, 5.02 mmol) in CH2Cl2 (10 mL) was added tert-BuOH (0.480 mL, 5.02 mmol) and the mixture was stirred for 1 h at 0° C. Then HCl salt of isoxazolidine (0.5 g, 4.56 mmol) and TEA (1.399 mL, 10.04 mmol) were added consecutively and the mixture was stirred overnight. Rxn was diluted with EtOAc and washed with ice cold 1N HCl, brine and then dried (MgSO4). Isolated crude product was purified by Biotage 25M column to afford tert-butyl isoxazolidin-2-ylsulfonylcarbamate as a beige solid (0.82 g, 71%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.50 (9 H, s), 2.38 (2 H, quin, J=7.37 Hz), 3.81 (2 H, m), 4.19 (2 H, t, J=7.30 Hz). To a cold (0-5° C.) solution of tert-butyl isoxazolidin-2-ylsulfonylcarbamate (0.82 g, 3.25 mmol) in DCM (2 mL) was added TFA (2 mL, 35.1 mmol) and the reaction mixture was stirred for 2 h at r.t and removed the solvent to afford isoxazolidine-2-sulfonamide (0.229 g, 46%). 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 2.40 (2 H, quin, J=7.32 Hz), 3.65 (2 H, m), 4.20 (2 H, t, J=7.32 Hz), 4.83 (2 H, brs).

reactant | tert-butyl isoxazolidin-2-ylsulfonylcarbamate | 3.25 mmol, 0.82 g | O1N(CCC1)S(=O)(=O)NC(OC(C)(C)C)=O | C8H16N2O5S
reactant | TFA | 35.1 mmol, 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | isoxazolidine-2-sulfonamide | 0.229 g, 46% | O1N(CCC1)S(=O)(=O)N | C3H8N2O3S
